US09381195B2
9.08 ml (65.1 mmol) of triethylamine is added to 2 g (2.96 mmol) of a solution of N-(5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-yl)-4-(4-methylpiperazin-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzamide in 65 ml of methanol. The reaction medium is heated at 65° C. for 2 hours, and then overnight at room temperature. The precipitate formed is filtered, rinsed with pentane, with water and then with diethyl ether, and then is dried under vacuum to yield 0.73 g (43%) of (N-(5-(3,5-difluorophenylthio)-1-H-pyrazolo[3,4-b]pyridine-3-yl)-4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide in the form of a white solid.

reactant | triethylamine | 65.1 mmol, 9.08 ml | C(C)N(CC)CC | C6H15N
reactant | N-(5-(3,5-difluorophenylthio)-1H-pyrazolo[3,4-b]pyridin-3-yl)-4-(4-methylpiperazin-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzamide | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2NC(C2=C(C=C(C=C2)N2CCN(CC2)C)N(C(C(F)(F)F)=O)C2CCOCC2)=O | C31H30F5N7O3S
solvent | methanol | 65 ml | CO | CH4O
product | N-(5-(3,5-difluorophenylthio)-1-H-pyrazolo[3,4-b]pyridine-3-yl)-4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide | FC=1C=C(C=C(C1)F)SC=1C=C2C(=NC1)NN=C2NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O | C29H31F2N7O2S
